US08008505B2
29.2 [rac]-4-{2-[2-(4-Chloro-phenyl)-2H-indazol-3-yl]-2-cyclohexyl-ethoxy}-3,5-dimethyl-benzoic acid methyl ester
To a solution of 2-[2-(4-chloro-phenyl)-2H-indazol-3-yl]-2-cyclohexyl-ethanol (20 mg, 56 umol) in THF (1 ml) was added 4-hydroxy-3,5-dimethyl-benzoic acid methyl ester (11 mg, 62 umol; CAS Reg. No. 34137-14-9) and tri-phenylphosphine (18 mg, 68 umol) at ambient temperature under an argon atmosphere. The mixture was cooled to 0° C., di-tert-butyl azodicarboxylate (16 mg, 68 umol) was added and the suspension was stirred for 14 h at ambient temperature. The solvent was removed under reduced pressure to give a solid which was purified by column chromatography (silica gel, iPrOAc/heptane) to obtain the title compound (8 mg, 15 umol; 27%) as colorless oil. MS: m/e=517.3 [M+H+].

reactant | 2-[2-(4-chloro-phenyl)-2H-indazol-3-yl]-2-cyclohexyl-ethanol | 56 umol, 20 mg | ClC1=CC=C(C=C1)N1N=C2C=CC=CC2=C1C(CO)C1CCCCC1 | C21H23ClN2O
reactant | 4-hydroxy-3,5-dimethyl-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)C)O)C)=O | C10H12O3
reactant | tri-phenylphosphine | 68 umol, 18 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butyl azodicarboxylate | 68 umol, 16 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | [rac]-4-{2-[2-(4-Chloro-phenyl)-2H-indazol-3-yl]-2-cyclohexyl-ethoxy}-3,5-dimethyl-benzoic acid methyl ester | 15 umol, 8 mg, 27% | COC(C1=CC(=C(C(=C1)C)OCC(C1CCCCC1)C=1N(N=C2C=CC=CC12)C1=CC=C(C=C1)Cl)C)=O | C31H33ClN2O3
